US05081136
Preparation of 4-(4-fluorophenyl)-1-isopropyl-1,2,3-triazole
A mixture of isopropylazide [G. A. Olah, D. J. Donovan, J. Org. Chem., 43, 860, (1978)] (54.5 g; 640.3 mmol) and 4-fluorophenylacetylene [J. B. Lambert et al., J. Am. Chem. Soc., 107, 5443, (1985)] (39 g; 325.1 mmol) was heated at 70° C. for 41 hours. The excess of isopropylazide was distilled off an the resultant crude compound was purified by chromatography on silica gel (230-400 mesh), eluent methylene chloride:acetone=39:1, giving the title compound (m.p. 54°-55° C.).

reactant | isopropylazide | C(C)(C)N=[N+]=[N-] | C3H7N3
reactant | 4-fluorophenylacetylene | 325.1 mmol, 39 g | FC1=CC=C(C=C1)C#C | C8H5F
product | 4-(4-fluorophenyl)-1-isopropyl-1,2,3-triazole | FC1=CC=C(C=C1)C=1N=NN(C1)C(C)C | C11H12FN3
